US08426411B2
A mixture of 2-((1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentylamino)thiazole-5-carbonitrile (0.21 g, 0.39 mmol), 1,4-dioxane (4.5 mL), EtOH (3.5 mL) and Na2CO3 (2 N aqueous, 5.8 mL, 15.7 mmol) was heated at about 50° C. for about 12 h. The reaction mixture was neutralized to pH 7 by the addition of AcOH (0.3 mL), washed with water (2×5 mL) and extracted with DCM (3×5 mL). The organic layer was dried over anhydrous MgSO4, filtered, and concd under reduced pressure. The crude material was purified by silica gel chromatography eluting with a gradient of 0-5% MeOH in DCM to give 2-((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentylamino)-thiazole-5-carbonitrile (0.09 g, 60%): LC/MS (Table 1, Method c) Rt=1.95 min; MS m/z: 379 (M+H)+.

reactant | 2-((1S,3R,4S)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentylamino)thiazole-5-carbonitrile | 0.39 mmol, 0.21 g | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)NC=1SC(=CN1)C#N | C25H24N8O2S2
reactant | 1,4-dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
reactant | EtOH | 3.5 mL | CCO | C2H6O
reactant | Na2CO3 | 15.7 mmol, 2 N, 5.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | AcOH | 0.3 mL | CC(=O)O | C2H4O2
product | 2-((1S,3R,4S)-3-ethyl-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentylamino)-thiazole-5-carbonitrile | 0.09 g, 60% | C(C)[C@@H]1C[C@@H](C[C@@H]1C1=NN=C2N1C1=C(N=C2)NC=C1)NC=1SC(=CN1)C#N | C18H18N8S
